US07847101B2
Synthesis of 3-(5-amino-4-benzothiazol-2-yl-2H-pyrazol-3-yl)-propan-1-ol
The benzothiazol-2-yl-(dihydrofuran-2-ylidene)-acetonitrile (90 mg, 0.37 mmol) prepared above and hydrazine hydrate (25 mg, 0.5 mmol) were refluxed in ethanol (15 mL) for 10 hours. The solvent was evaporated and the resulting residue was triturated with dichloromethane. The solid was isolated by filtration and was then washed with dichloromethane and methanol to yield 60 mg (67%) of the title compound as a cream coloured solid. MS (m/z, ES+): 275.1 (M+1, 100). 1H NMR (300 MHz, ppm, DMSO-d6): δ (ppm), 11.5-12.2 (br s, 1H), 8.00 (d, 1H), 7.86 (d, 1H), 7.77 (t, 2H), 7.29 (t, 1H), 7.00-5.20 (br m, 2H), 4.55 (s, 1H), 3.52 (q, 2H), 2.83 (br s, 2H), 1.84 (q, 2H).

reactant | benzothiazol-2-yl-(dihydrofuran-2-ylidene)-acetonitrile | 0.37 mmol, 90 mg | S1C(=NC2=C1C=CC=C2)C(C#N)=C2OCCC2 | C13H10N2OS
reactant | hydrazine hydrate | 0.5 mmol, 25 mg | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(5-amino-4-benzothiazol-2-yl-2H-pyrazol-3-yl)-propan-1-ol | 60 mg, 67% | NC=1C(=C(NN1)CCCO)C=1SC2=C(N1)C=CC=C2 | C13H14N4OS
